US09212348B2
Synthesis of 4-(4-hexylphenyl)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazol-5-ol (Compound No. 4-90 of the Present Invention)
Ethyl 3-(dimethylamino)-2-(4-hexylphenyl)acrylate and 0.50 g (1.8 mmol) of tert-butyl 2-(2-methyl-1-(p-tolyl)propan-2-yl)hydrazinecarboxylate were dissolved in 2 mL of acetic acid and stirred at 90° C. for 24 hours. After the stirring, the reaction mixture was mixed with 0.5 mL of acetic acid and stirred for 48 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, diluted with diethyl ether and washed with distilled water, with saturated aqueous sodium hydrogen carbonate and with saturated aqueous sodium chloride successively. The organic layer was dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by intermediate pressure silica gel column chromatography (silica gel 30 g, ethyl acetate:hexane=0:100 to 35:65). The resulting solid was washed with isopropyl ether to give 164 mg of the desired product as a white solid.

reactant | Ethyl 3-(dimethylamino)-2-(4-hexylphenyl)acrylate | CN(C=C(C(=O)OCC)C1=CC=C(C=C1)CCCCCC)C | C19H29NO2
reactant | tert-butyl 2-(2-methyl-1-(p-tolyl)propan-2-yl)hydrazinecarboxylate | 1.8 mmol, 0.50 g | CC(CC1=CC=C(C=C1)C)(C)NNC(=O)OC(C)(C)C | C16H26N2O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 4-(4-hexylphenyl)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazol-5-ol | 164 mg | C(CCCCC)C1=CC=C(C=C1)C=1C=NN(C1O)C(CC1=CC=C(C=C1)C)(C)C | C26H34N2O
